US07435823B2
Preparation of R)-1-(2-amino-4-(trifluoromethyl)phenyl)-N,N-dimethylpyrrolidin-3-amine
To a solution of (R)-N,N-dimethyl-1-(2-nitro-4-(trifluoromethyl)phenyl)pyrrolidin-3-amine (1.75 g, 5.77 mmol) in MeOH (60 mL) was added 10% Pd/C (0.30 g, 0.29 mmol). H2 gas was bubbled through the solution for 5 minutes, and the reaction was stirred at RT under an atmosphere of H2 gas. The reaction was monitored by LCMS for disappearance of starting material and formation of product. The mixture was filtered through celite with MeOH, and concentrated to afford the product as an orange/red oil.

reactant | (R)-N,N-dimethyl-1-(2-nitro-4-(trifluoromethyl)phenyl)pyrrolidin-3-amine | 5.77 mmol, 1.75 g | CN([C@H]1CN(CC1)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])C | C13H16F3N3O2
solvent | MeOH | 60 mL | CO | CH4O
catalyst | Pd/C | 0.29 mmol, 0.30 g | [Pd] | Pd
product | 1-(2-amino-4-(trifluoromethyl)phenyl)-N,N-dimethylpyrrolidin-3-amine | NC1=C(C=CC(=C1)C(F)(F)F)N1CC(CC1)N(C)C | C13H18F3N3
